US07884207B2
Under a nitrogen atmosphere ethoxyacetyl chloride (2.26 g, 16.6 mmol) was added dropwise to a chilled (0° C.) suspension of 4-{[(3-amino-2-chloro-5,6-dimethylpyridin-4-yl)amino]methyl}tetrahydro-2H-pyran-4-ol (3.96 g) in dichloromethane (140 mL). The reaction mixture was stirred at ambient temperature overnight. The reaction mixture was cooled to 0° C., more ethoxyacetyl chloride (0.3 mL) was added, and the reaction mixture was stirred at ambient temperature for an additional 4 hours. The reaction mixture was concentrated under reduced pressure to provide crude N-(2-chloro-4-{[(4-hydroxytetrahydro-2H-pyran-4-yl)methyl]amino}-5,6-dimethylpyridin-3-yl)-2-ethoxyacetamide.

reactant | ethoxyacetyl chloride | 16.6 mmol, 2.26 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | 4-{[(3-amino-2-chloro-5,6-dimethylpyridin-4-yl)amino]methyl}tetrahydro-2H-pyran-4-ol | 3.96 g | NC=1C(=NC(=C(C1NCC1(CCOCC1)O)C)C)Cl | C13H20ClN3O2
reactant | ethoxyacetyl chloride | 0.3 mL | C(C)OCC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 140 mL | ClCCl | CH2Cl2
product | N-(2-chloro-4-{[(4-hydroxytetrahydro-2H-pyran-4-yl)methyl]amino}-5,6-dimethylpyridin-3-yl)-2-ethoxyacetamide | ClC1=NC(=C(C(=C1NC(COCC)=O)NCC1(CCOCC1)O)C)C | C17H26ClN3O4
